US05185342
Methyl-(E)-2-(2-tolyl)-2-methoxyiminoacetate (4.74 g) was dissolved in carbon tetrachloride (100 ml), and N-bromosuccinimide (4.89 g) and benzoylperoxide (554 mg) were added thereto. The resultant mixture was heated under reflux for 1 hour and cooled to room temperature. Insoluble materials were removed by filtration. On concentration of the solvent, the residue was purified by silica gel column chromatography with a mixture of hexane and ethyl acetate to give methyl-(E)-2-(2-bromomethylphenyl)-2-methoxyiminoacetate (6.98 g).

reactant | Methyl-(E)-2-(2-tolyl)-2-methoxyiminoacetate | 4.74 g | COC(/C(=N/OC)/C1=C(C=CC=C1)C)=O | C11H13NO3
reactant | N-bromosuccinimide | 4.89 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoylperoxide | 554 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | methyl-(E)-2-(2-bromomethylphenyl)-2-methoxyiminoacetate | 6.98 g | COC(/C(=N/OC)/C1=C(C=CC=C1)CBr)=O | C11H12BrNO3
